US05627203
7-Methylpyrrolo[1,2-a]indol-9-one.
At 0° C., add 1.36 ml (14.9 mmol) of phosphorus oxychloride to 1.14 ml (14.9 mmol) of dimethylformamide, then add a solution of 3 g (14.9 mmol) of 5-methyl-2-pyrrol-1-ylbenzoic acid (Preparation 25) in 30 ml of dimethylformamide. After one night's stirring at room temperature, hydrolyse the reaction mixture by pouring into 50 ml of water, extract with 200 ml of diethyl ether, and wash the ethereal phase in succession with water, a saturated aqueous hydrogen carbonate solution and then water. After drying over magnesium sulfate and rendering colourless with animal charcoal, the ethereal phase is concentrated to dryness to yield the title compound.

reactant | phosphorus oxychloride | 14.9 mmol, 1.36 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-methyl-2-pyrrol-1-ylbenzoic acid | 14.9 mmol, 3 g | CC=1C=CC(=C(C(=O)O)C1)N1C=CC=C1 | C12H11NO2
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 14.9 mmol, 1.14 ml | CN(C=O)C | C3H7NO
product | 7-Methylpyrrolo[1,2-a]indol-9-one | Yield: 35% | CC1=CC=2C(C=3N(C2C=C1)C=CC3)=O | C12H9NO
